US07105530B2
To a stirred suspension of N-(2-chloro-4-pyrimidinyl)-N-(3-methyl-1H-indazol-6-yl)amine (2.8 g, 0.011 mol), triethylamine (1.5 mL, 0.011 mol) 4-dimethylaminopyridine (0.13 g, 0.11 mmol), and acetonitrile (14 mL) was added DMF (50 mL) at room temperature. Once the mixture is in solution, di-tert-butyl dicarbonate (2.36 g, 0.011 mol) was added portion wise over three minutes. After being stirred for 1 hour, the solution was diluted with water and extracted with ether (3×40 mL). The combined extracts were dried over sodium sulfate, filtered, and concentrated under reduced pressure. The resulting residue was purified by column chromatography (silica gel, 9:1 CH2Cl2-EtOAc), giving 3.3 grams (85% yield) of tert-butyl 6-[(2-chloro-4-pyrimidinyl)amino]-3-methyl-1H-indazole-1-carboxylate.

reactant | N-(2-chloro-4-pyrimidinyl)-N-(3-methyl-1H-indazol-6-yl)amine | 0.011 mol, 2.8 g | ClC1=NC=CC(=N1)NC1=CC=C2C(=NNC2=C1)C | C12H10ClN5
reactant | triethylamine | 0.011 mol, 1.5 mL, 0.13 g | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 14 mL | C(C)#N | C2H3N
reactant | di-tert-butyl dicarbonate | 0.011 mol, 2.36 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | O | H2O
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-butyl 6-[(2-chloro-4-pyrimidinyl)amino]-3-methyl-1H-indazole-1-carboxylate | 3.3 grams, 85% yield | ClC1=NC=CC(=N1)NC1=CC=C2C(=NN(C2=C1)C(=O)OC(C)(C)C)C | C17H18ClN5O2
